US08877774B2
Step 4. (3-((3-(4-(2,2-dimethoxyethyl)phenyl)-1,2,4-oxadiazol-5-yl)methoxy)phenyl)-(phenyl)methanamine
Hydrogen chloride in dioxan (4.0 M, 5 mL, 24 mmol) was added to a solution of tert-butyl((3-((3-(4-((1,3-dioxolan-2-yl)methyl)phenyl)-1,2,4-oxadiazol-5-yl)methoxy)phenyl)(phenyl)methyl)carbamate (1.01 g, 1.85 mmol) in methanol (5 mL), and the resultant solution was stirred at ambient temperature for 2 hours. The solvent was evaporated at reduced pressure, and the residue was loaded onto an SCX-2 cartridge. The cartridge was eluted with methanol (eight column volumes) followed by ammonia/methanol. Fractions containing the product were combined and evaporated at reduced pressure to afford the title compound (0.796 g, 96%).

reactant | Hydrogen chloride | Cl | ClH
reactant | dioxan | 24 mmol, 4.0 M, 5 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl((3-((3-(4-((1,3-dioxolan-2-yl)methyl)phenyl)-1,2,4-oxadiazol-5-yl)methoxy)phenyl)(phenyl)methyl)carbamate | 1.85 mmol, 1.01 g | C(C)(C)(C)OC(NC(C1=CC=CC=C1)C1=CC(=CC=C1)OCC1=NC(=NO1)C1=CC=C(C=C1)CC1OCCO1)=O | C31H33N3O6
solvent | methanol | 5 mL | CO | CH4O
product | (3-((3-(4-(2,2-dimethoxyethyl)phenyl)-1,2,4-oxadiazol-5-yl)methoxy)phenyl)-(phenyl)methanamine | 0.796 g, 96% | COC(CC1=CC=C(C=C1)C1=NOC(=N1)COC=1C=C(C=CC1)C(N)C1=CC=CC=C1)OC | C26H27N3O4
